US05395846
To KH (35%; 0.43 g; 0.0038 mole) in THF (10 ml) under N2 and cooled in ice is added N-trityl-l-hydroxytricyclo[3.3.1.13,7 ]decan-2-amine (1.3 g; 0.0032 mole) and this mixture is stirred in an ice bath for 5 minutes and then at room temperature for an hour. To this mixture is added 4-(benzoxazol-2-yl)benzyl bromide all at once and an immediate yellow suspension develops. The reaction is stirred at room temperature for 4 hours, filtered and the filtrate stripped to dryness to give a solid residue. The components are separated on HPLC, eluting with 8% ethyl acetate/hexane to obtain N-trityl-1-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]decan-2-amine (m.p. 208°-210° C.) which is used directly in step C.

reactant | N-trityl-l-hydroxytricyclo[3.3.1.13,7 ]decan-2-amine | 0.0032 mole, 1.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C2(CC3CC(CC1C3)C2)O | C29H31NO
reactant | 4-(benzoxazol-2-yl)benzyl bromide | O1C(=NC2=C1C=CC=C2)C2=CC=C(CBr)C=C2 | C14H10BrNO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-trityl-1-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]decan-2-amine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C2(CC3CC(CC1C3)C2)OCC2=CC=C(C=C2)C=2OC3=C(N2)C=CC=C3 | C43H40N2O2
